US09290490B2
(−)-Verbenone (615 mg, 4.09 mmol) was dissolved in a mixture of acetonitrile (2.0 mL), CCl4 (2.0 mL) and water (3.0 mL). Sodium periodate (3.59 g, 16.79 mmol) and ruthenium(III) chloride hydrate (18.68 mg, 0.090 mmol) were added and the resulting biphasic mixture was stirred vigorously at room temperature for 24 hrs. The reaction mixture was then diluted with DCM, washed with H2O and extracted with DCM (3×). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure to give (1R,3S)-3-acetyl-2,2-dimethylcyclobutanecarboxylic acid as a pale yellow oil, which was used without further purification. MS ESI calc'd. for C9H15O3 [M+H]+ 171. found 171.

reactant | (−)-Verbenone | 4.09 mmol, 615 mg | CC1=CC(=O)C2CC1C2(C)C | C10H14O
reactant | Sodium periodate | 16.79 mmol, 3.59 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 3.0 mL | O | H2O
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | CCl4 | 2.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | ruthenium(III) chloride hydrate | 0.090 mmol, 18.68 mg | O.[Ru](Cl)(Cl)Cl
product | (1R,3S)-3-acetyl-2,2-dimethylcyclobutanecarboxylic acid | C(C)(=O)[C@@H]1C([C@@H](C1)C(=O)O)(C)C | C9H14O3
